US05859271
To 566 mg (0.553 mmol) of 2-[tris(oleoyloxymethyl) methylamino]-1-ethanesulfonic acid in 10 mL THF was added 410 mg (4.06 mmol) of triethylamine. After 5 min 96 mg (0.960 mmol) of succinic anhydride was added. The yellow solution was stirred for 18 h under reflux. The solvent was removed under reduced pressure. The residual oil was purified by chromatography on silica gel, eluted with an ethyl acetate/methanol gradient (25:75 vol/vol to 0:100 vol/vol). N-[tris(oleoyloxymethyl)methyl]-N-(2-sulfoethyl) succinic acid monoamide was isolated as a yellow heavy viscous oil with a yield of 240 mg (38%).

reactant | 2-[tris(oleoyloxymethyl) methylamino]-1-ethanesulfonic acid | 0.553 mmol, 566 mg | C(CCCCCCC\C=C/CCCCCCCC)(=O)OCC(NCCS(=O)(=O)O)(COC(CCCCCCC\C=C/CCCCCCCC)=O)COC(CCCCCCC\C=C/CCCCCCCC)=O | C60H111NO9S
reactant | triethylamine | 4.06 mmol, 410 mg | C(C)N(CC)CC | C6H15N
reactant | succinic anhydride | 0.960 mmol, 96 mg | C1(CCC(=O)O1)=O | C4H4O3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-[tris(oleoyloxymethyl)methyl]-N-(2-sulfoethyl) succinic acid monoamide | C(CCCCCCC\C=C/CCCCCCCC)(=O)OCC(N(C(CCC(=O)O)=O)CCS(=O)(=O)O)(COC(CCCCCCC\C=C/CCCCCCCC)=O)COC(CCCCCCC\C=C/CCCCCCCC)=O | C64H115NO12S
